* C:\Users\nicola\Documents\git\AnalogSynth\EG\Simulation\EG.asc
XU1 N004 N001 VCC VSS N001 LT1001
C1 N004 0 1µF
R1 N004 N003 10k
D1 N008 N002 D
V1 N002 0 PULSE(0 5 0 0 0 200mS 300mS 1)
V2 VCC 0 15
V3 0 VSS 15
XU2 N013 N001 VCC VSS N011 LT1001
V4 N013 0 4
XU3 N010 N006 VCC VSS N007 LT1001
R2 N006 0 10k
R3 N007 N006 10k
D5 N012 N011 D
R10 N010 N014 60k
R11 N010 N001 10k
D2 N002 N003 D
R4 N004 N008 40k
R5 N014 N012 6k
C2 N014 0 1µF
D3 P001 N009 D
XU4 N009 N005 VCC VSS OUT LT1001
R6 N009 0 100k
R9 0 N005 20k
R8 OUT N005 10k
D4 N007 P001 D
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 500mS
.lib LTC.lib
.backanno
.end
